US08242104B2
To a microwave vial were charged 9-bromo-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene (200 mg, 0.755 mmol), 4-isopropyl-3-methanesulfonyl-4H-[1,2,4]triazole (143 mg, 0.755 mmol), cesium carbonate (246 mg, 0.755 mmol) and THF (2 mL). The reaction mixture was heated to 150° C. for 2 h then extracted with ethyl acetate (20 mL), washed with water (20 mL), dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0 to 100% ethyl acetate in cyclohexane) to afford 9-bromo-2-(4-isopropyl-4H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene (122 mg, 43%). LCMS RT=4.34 min, M+H+=374/376.

reactant | 9-bromo-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene | 0.755 mmol, 200 mg | BrC=1C=CC2=C(C3=NNC=C3CCO2)C1 | C11H9BrN2O
reactant | 4-isopropyl-3-methanesulfonyl-4H-[1,2,4]triazole | 0.755 mmol, 143 mg | C(C)(C)N1C(=NN=C1)S(=O)(=O)C | C6H11N3O2S
reactant | cesium carbonate | 0.755 mmol, 246 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 9-bromo-2-(4-isopropyl-4H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene | 122 mg, 43% | BrC=1C=CC2=C(C3=NN(C=C3CCO2)C2=NN=CN2C(C)C)C1 | C16H16BrN5O
